US07105671B2
A solution of 2-(4-fluoro-3-trifluoromethyl-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid (5.20 g, 16.24 mmol) in dry N,N-dimethylformamide (90 mL) at 25° C. under argon was carefully treated with 95% sodium hydride (410 mg, 17.05 mmol). The reaction mixture was stirred at 25° C. for 30 min and then was treated with sodium thiomethoxide (2.40 g, 32.48 mmol). This mixture was heated at 100° C. for 4.5 h and then concentrated in vacuo to remove N,N-dimethylformamide. The residue was diluted with water (100 mL) and then was acidified to pH=2 using a 1N aqueous hydrochloric acid solution. The resulting aqueous layer was extracted with ethyl acetate (2×600 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 98/2 chloroform/methanol to 9/1 chloroform/methanol) afforded 2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid (5.70 g, 100%) as a yellow gum: EI-HRMS m/e calcd for C16H19F3O3S (M+Na)+ 371.0899, found 371.0902.

reactant | 2-(4-fluoro-3-trifluoromethyl-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid | 16.24 mmol, 5.20 g | FC1=C(C=C(C=C1)C(C(=O)O)CC1OCCCC1)C(F)(F)F | C15H16F4O3
reactant | sodium hydride | 17.05 mmol, 410 mg | [H-].[Na+]
reactant | sodium thiomethoxide | 32.48 mmol, 2.40 g | C[S-].[Na+]
solvent | N,N-dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
product | 2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid | 5.70 g, 100% | CSC1=C(C=C(C=C1)C(C(=O)O)CC1OCCCC1)C(F)(F)F | C16H19F3O3S
